US07915411B2
6-Isopropyl-2-oxo 1,2-dihydro-pyridine-3-carbonitrile
To a solution of the product of Example 36A (5.35 g, 0.0393 mol) and 2-cyanoacetamide (3.47 g, 0.0413 mol) in water (35 mL) was stirred at room temperature for 10 minutes. To this mixture was added 2.5 mL of a stock piperidine acetate solution (prepared from 9.8 mL of piperidine, 6 mL of acetic acid and 10 mL of water), and the solution was heated under reflux for 2 hours. The mixture was then cooled to room temperature and taken to pH 4 by the addition of glacial acetic acid. The resulting light yellow solid was isolated by vacuum filtration, rinsed with water (2×30 mL), and dried under vacuum to provide the title product (4.36 g, 68%).

reactant | 2-cyanoacetamide | 0.0413 mol, 3.47 g | C(#N)CC(=O)N | C3H4N2O
reactant | piperidine acetate | 9.8 mL | C(C)(=O)O.N1CCCCC1
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 35 mL | O | H2O
product | 6-Isopropyl-2-oxo 1,2-dihydro-pyridine-3-carbonitrile | 4.36 g, 68% | C(C)(C)C1=CC=C(C(N1)=O)C#N | C9H10N2O
